US06518283B1
Methyl (S)-2-(t-butyloxycarbonylamino)-3-[4-(2,6-naphthyridin-1-yloxy)phenyl]propanoate
To N-(t-butyloxycarbonyl)tyrosine methyl ester (1.42 g, 4.82 mmol) in dry DMF (10 ml) was added 1-chloro-2,6 naphthyridine (0.79 g, 4.82 mmol) and cesium carbonate (1.65 g, 5.06 mmol) and the reaction stirred at 45° under N2 for 2 days. The DMF was evaporated, EtOAc added and washed (3×) with water, dried (MgSO4), and evaporated in vacuo. The residue was chromatographed (SiO2; 40 to 100% EtOAc/isohexane) to afford the title compound as white foam (1.61 g, 82%). δH (CDCl3) 9.29 (1H, s), 8.76 (1H, d, J 5.74 HZ), 8.17 (1H, d, J 5.74 Hz), 8.11 (1H, d, J 5.8 Hz), 7.43 (1H, d, J 5.8 Hz), 7.22-7.18 (3H, m), 5.03 (1H, br s), 4.61 (1H, br s), 3.75 (3H, s), 3.15-3.05 (2H, m), 1.44 (9H, s); m/z (ES+, 70V) MH+424.

reactant | N-(t-butyloxycarbonyl)tyrosine methyl ester | 4.82 mmol, 1.42 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O | C15H21NO5
reactant | 1-chloro-2,6 naphthyridine | 4.82 mmol, 0.79 g | ClC1=NC=CC2=CN=CC=C12 | C8H5ClN2
reactant | cesium carbonate | 5.06 mmol, 1.65 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Methyl (S)-2-(t-butyloxycarbonylamino)-3-[4-(2,6-naphthyridin-1-yloxy)phenyl]propanoate | 1.61 g, 82% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1=CC=C(C=C1)OC1=NC=CC2=CN=CC=C12 | C23H25N3O5
